US08541575B2
Preparation of 3-dibenzylamino-2,6-difluoro-benzoic acid benzyl ester
To a solution of dibenzyl-(2,4-difluoro-phenyl)-amine (17.5 g, 0.056 mol) in THF (140 mL), under nitrogen atmosphere, cooled at −78° C., n-butyllithium (1.6 M in hexane, 38 mL, 0.06 mol) was slowly added. The reaction was stirred for 1 hour, and then quickly added via a cannula to a solution of benzyl chloroformate (11.78 mL, 0.084 mol) in THF (140 mL) previously cooled at −78° C. The reaction was then allowed to warm to room temperature, poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated and purified by silica gel column chromatography eluting with 5% ethyl acetate in hexane grading to 10% acetate (quant.).

reactant | dibenzyl-(2,4-difluoro-phenyl)-amine | 0.056 mol, 17.5 g | C(C1=CC=CC=C1)N(C1=C(C=C(C=C1)F)F)CC1=CC=CC=C1 | C20H17F2N
reactant | n-butyllithium | 0.06 mol, 1.6 M, 38 mL | C(CCC)[Li]
reactant | benzyl chloroformate | 0.084 mol, 11.78 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | water | O | H2O
solvent | THF | 140 mL | C1CCOC1 | C4H8O
solvent | THF | 140 mL | C1CCOC1 | C4H8O
product | 3-dibenzylamino-2,6-difluoro-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(C(=CC=C1F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)F)=O | C28H23F2NO2
